US04245028
(c) Synthesis of 2-[2'-(2-Methoxyethoxy)-5'-aminobenzenesulfonamido]-4-hexadecyloxy-5-methylphenol
32 g of 2-[2'-(2-methoxyethoxy)-5'-nitrobenzenesulfonamido]-4-hexadecyloxy-5-methylphenol prepared as described in Step (b) above, 24 g of iron powder, 12 g of Fe3O4, 0.6 g of ammonium chloride and 25 ml of water were added to 300 ml of isopropyl alcohol and the mixture was refluxed on a steam bath with stirring for 1 hour. After completion of the reaction, the mixture was filtered while hot and the filtrate was cooled with ice. The crystals thus precipitated were recovered by filtration, washed with 50 ml of isopropyl alcohol and air-dried. Yield: 23 g. Melting Point: 142° to 144° C.

reactant | 2-[2'-(2-methoxyethoxy)-5'-nitrobenzenesulfonamido]-4-hexadecyloxy-5-methylphenol | 32 g | COCCOC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)NC1=C(C=C(C(=C1)OCCCCCCCCCCCCCCCC)C)O | C32H50N2O8S
reactant | ammonium chloride | 0.6 g | [Cl-].[NH4+]
reactant | water | 25 ml | O | H2O
catalyst | iron | 24 g | [Fe] | Fe
solvent | isopropyl alcohol | 300 ml | C(C)(C)O | C3H8O
product | 2-[2'-(2-Methoxyethoxy)-5'-aminobenzenesulfonamido]-4-hexadecyloxy-5-methylphenol | COCCOC1=C(C=C(C=C1)N)S(=O)(=O)NC1=C(C=C(C(=C1)OCCCCCCCCCCCCCCCC)C)O | C32H52N2O6S
